US05260316
To a solution of 6-hydroxy-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline (1.5 g, 5.34 mmol) in acetone (80 ml) is added 3-chloro-2-methylpropene (8 ml, 8.01 mmol), Cs2CO3 and a catalytic amount of Kl. The reaction is then refluxed for 24 hours. After this time the reaction mixture is cooled to ambient temperature and filtered. The filter cake is washed with acetone (3×50 ml) and the combined organics concentrated in vacuo. The residue is chromatographed (silica gel, 1:4 EtOAc/hexane) to give 6-(2-methyl-2-propenyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline.

reactant | 6-hydroxy-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline | 5.34 mmol, 1.5 g | OC=1C=C2CCN(C(C2=CC1)=O)CCCC1=CC=CC=C1 | C18H19NO2
reactant | 3-chloro-2-methylpropene | 8.01 mmol, 8 ml | ClCC(=C)C | C4H7Cl
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 6-(2-methyl-2-propenyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline | CC(COC=1C=C2CCN(C(C2=CC1)=O)CCCC1=CC=CC=C1)=C | C22H25NO2
